simulator lang=spectre
global 0

ahdl_include "./dut/dual_track_sample_hold.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0.0
Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 delay=12n rise=60p fall=60p width=7n period=22n
Vin  (vin 0) vsource type=pwl wave=[ \
0 0.16 7n 0.64 15n 0.24 \
27n 0.24 30n 0.48 37n 0.76 \
49n 0.76 52n 0.22 59n 0.68 \
71n 0.68 74n 0.82 81n 0.30 \
93n 0.30 96n 0.44 125n 0.44 \
]
XDUT (vdd vss clk vin vout phase) dual_track_sample_hold

tran tran stop=125n maxstep=100p
save vin clk vout phase vdd vss
